US07101903B2
9-(4-tert-Butylbenzyl)-6-hydroxy-1,9-dihydropyrano[3,4-b]indole-3,4-dione
Boron tribromide (2.2 mL, 23.3 mmol) was added dropwise to a stirring suspension of 9-(4-tert-Butylbenzyl)-6-methoxy-1,9-dihydropyrano[3,4-b]indole-3,4-dione (4.92 g, 13.0 mmol) in methylene chloride (25 mL) at −78° C. under a nitrogen atmosphere over a period of 20 minutes. The mixture was then warmed up to room temperature. After stirring at room temperature for 6.5 hours, the reaction mixture was carefully quenched with a small amount of water and the evaporated to dryness. The residue was stirred in ether and filtered to afford a brown solid. Crystallization from aqueous methanol afforded the title compound as a brown solid (1.72 g). Mass spectrum (ESI, [M−H]−) m/z 362. 1HNMR (400 MHz, DMSO-d6): δ 9.39 (s, 1H), 7.44 (d, 1H, J=8.85 Hz), 7.40 (d, 1H, J=2.29 Hz), 7.34 (d, 2H, J=8.25 Hz), 6.80 (dd, 1H, J=8.86 and 2.29 Hz), 5.84 (s, 2H), 5.37 (s, 2H), 1.22 ppm (s, 9H).

reactant | Boron tribromide | 23.3 mmol, 2.2 mL | B(Br)(Br)Br | BBr3
reactant | 9-(4-tert-Butylbenzyl)-6-methoxy-1,9-dihydropyrano[3,4-b]indole-3,4-dione | 13.0 mmol, 4.92 g | C(C)(C)(C)C1=CC=C(CN2C3=C(C4=CC(=CC=C24)OC)C(C(OC3)=O)=O)C=C1 | C23H23NO4
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
product | 9-(4-tert-Butylbenzyl)-6-hydroxy-1,9-dihydropyrano[3,4-b]indole-3,4-dione | 1.72 g | C(C)(C)(C)C1=CC=C(CN2C3=C(C4=CC(=CC=C24)O)C(C(OC3)=O)=O)C=C1 | C22H21NO4
